US04186268
2-Phosphonopyrrolidine is dissolved in water and the pH of the solution adjusted to 7 by the addition of sodium hydroxide. The solution is cooled in an ice bath, and 2-(acetylthio)propanoyl chloride is added dropwise. During the addition, the pH of the solution is maintained at 7 by the addition of 2 N sodium hydroxide. After the addition is complete, the reaction mixture is acidified to pH 2 with concentrated HCl and extracted with ethyl acetate. Drying (over MgSO4) and evaporation of the extracts affords a residue of the product, [1-(2-acetylthio-1-oxopropyl)-2-pyrrolidinyl]phosphonic acid.

reactant | 2-Phosphonopyrrolidine | P(=O)(O)(O)C1NCCC1 | C4H10NO3P
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-(acetylthio)propanoyl chloride | C(C)(=O)SC(C(=O)Cl)C | C5H7ClO2S
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | [1-(2-acetylthio-1-oxopropyl)-2-pyrrolidinyl]phosphonic acid | C(C)(=O)SC(C(=O)N1C(CCC1)P(O)(O)=O)C | C9H16NO5PS
